US08530469B2
5-Methoxy-3-methyl-phthalic anhydride was used to prepare 6-methoxy-4-methyl-isoindole-1,3-dione. 1H NMR (DMSO-d6) 11.05 (1H, br.s), 7.13 (1H, d), 7.10 (1H, d), 3.88 (3H, s), 2.55 (3H, s). Reduction of 6-methoxy-4-methyl-isoindole-1,3-dione according to the method of preparation C2 afforded 6-methoxy-4-methyl-isoindole. 1H NMR (DMSO-d6) 6.64 (1H, s), 6.57 (1H, s), 4.05 (2H, s), 3.96 (2H, s), 3.70 (3H, s), 2.16 (3H, s). MS: [M+H]+ 164.

reactant | 5-Methoxy-3-methyl-phthalic anhydride | COC1=CC(=C2C(C(=O)OC2=O)=C1)C | C10H8O4
reactant | 6-methoxy-4-methyl-isoindole-1,3-dione | COC1=CC(=C2C(NC(C2=C1)=O)=O)C | C10H9NO3
product | 6-methoxy-4-methyl-isoindole | COC=1C=C(C2=CNC=C2C1)C | C10H11NO
